US06316637B1
3-Methyl-4-bromo-5-aminobenzimidazole.
To a solution of 3-methyl-5-aminobenzimidazole (0.27 g, 1.8 mmol) in 10 ml of AcOH was added Br2 (0.10 ml). The reaction mixture was stirred for 1 h at 25° C. and concentrated in vacuo, yielding an oil which was subjected to column chromatography (NH3 sat'd 3% MeOH/CHCl3) to yield 0.14 g (0.62 mmol, 35%) of the desired product.

reactant | 3-methyl-5-aminobenzimidazole | 1.8 mmol, 0.27 g | CN1C=NC2=C1C=C(C=C2)N | C8H9N3
reactant | Br2 | 0.10 ml | BrBr | Br2
reactant | NH3 | N | H3N
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 3-Methyl-4-bromo-5-aminobenzimidazole | 0.62 mmol, 0.14 g, 35% | CN1C=NC2=C1C(=C(C=C2)N)Br | C8H8BrN3
